US06528525B1
(b) Diethyl 2-(4-benzyloxybenzyl)-2-(4-isopropylphenoxy)malonate
In a similar manner to that described in Reference example 2(a), a reaction was carried out using diethyl 2-(4-isopropylphenoxy)malonate (21.5 g), which is the product of Reference example 5(a), 4-benzyloxybenzyl chloride (19.7 g) and sodium hydride (55% suspension in oil, 3.53 g) and the reaction mixture was treated to afford the desired compound (32.3 g) as a syrup.

reactant | diethyl 2-(4-isopropylphenoxy)malonate | 21.5 g | C(C)(C)C1=CC=C(OC(C(=O)OCC)C(=O)OCC)C=C1 | C16H22O5
reactant | 4-benzyloxybenzyl chloride | 19.7 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium hydride | 3.53 g | [H-].[Na+]
product | Diethyl 2-(4-benzyloxybenzyl)-2-(4-isopropylphenoxy)malonate | 32.3 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)OC2=CC=C(C=C2)C(C)C)C=C1 | C30H34O6
